
* 3TB25 ; Triac ; Silicon (Si) ; Hutson Industries ; HITO-3
* Level 2 (Temp)
.SUBCKT HUT_3TB25     1   2   3   
*                     |   |   |   
*                     |   |   MT1
*                     |   G
*                     MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 7
R5 15 0 500 TC1=0.001 
C1 8 0 1.956522E-08
C2 12 0 1.956522E-08
B1 9 0 V=u(v(1,3)-260)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-260)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.124266E-02*(((V(15,0)/500)-1)*1000)+(-1.75904)))
B4 17 0 V=(EXP(-1.124266E-02*(((V(15,0)/500)-1)*1000)+(-1.75904)))
B5 18 0 V=(EXP(0.128*(((V(15,0)/500)-1)*1000)+(0.056)))
B6 19 0 V=(EXP(0.128*(((V(15,0)/500)-1)*1000)+(0.056)))
.MODEL SMOD1 SW (RON=0.072 ROFF=200000 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=0.072 ROFF=200000 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=1E-14 N=1 CJO=2.68E-10 XTI=3 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=1E-14 N=1 CJO=2.68E-10 XTI=3 EG=1.11 TNOM=25)

* STATUS: Obsolete
* DATASHEET/DATABOOK: Solid State Control Devices Databook 1988
* (C) ISD  29.10.1998 13:37:02 Prometheus V2.0.0
.ENDS
 
* 3TB40 ; Triac ; Silicon (Si) ; Hutson Industries ; HITO-3
* Level 2 (Temp)
.SUBCKT HUT_3TB40     1   2   3   
*                     |   |   |   
*                     |   |   MT1
*                     |   G
*                     MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 7
R5 15 0 500 TC1=0.001 
C1 8 0 1.956522E-08
C2 12 0 1.956522E-08
B1 9 0 V=u(v(1,3)-260)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-260)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.124266E-02*(((V(15,0)/500)-1)*1000)+(-1.75904)))
B4 17 0 V=(EXP(-1.124266E-02*(((V(15,0)/500)-1)*1000)+(-1.75904)))
B5 18 0 V=(EXP(0.16*(((V(15,0)/500)-1)*1000)+(0.07)))
B6 19 0 V=(EXP(0.16*(((V(15,0)/500)-1)*1000)+(0.07)))
.MODEL SMOD1 SW (RON=0.05 ROFF=99999.99 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=0.05 ROFF=99999.99 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=1.6E-14 N=1 CJO=3.35E-10 XTI=3 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=1.6E-14 N=1 CJO=3.35E-10 XTI=3 EG=1.11 TNOM=25)

* STATUS: Obsolete
* DATASHEET/DATABOOK: Solid State Control Devices Databook 1988
* (C) ISD  29.10.1998 13:37:02 Prometheus V2.0.0
.ENDS

* 2N6073B ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 2 (Temp)
.SUBCKT MOT_2N6073B     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 5
R5 15 0 500 TC1=0.001 
C1 8 0 9.782609E-09
C2 12 0 9.782609E-09
B1 9 0 V=u(v(1,3)-520)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-520)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.623897)))
B4 17 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.623897)))
B5 18 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
B6 19 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
.MODEL SMOD1 SW (RON=8.085318E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=8.085318E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=5.501861E-04 N=6.733192 CJO=6.7E-10 XTI=6.893982 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=5.501861E-04 N=6.733192 CJO=6.7E-10 XTI=6.893982 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:42:49 Prometheus V2.0.0
.ENDS
 
* 2N6075 ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 2 (Temp)
.SUBCKT MOT_2N6075     1   2   3   
*                      |   |   |   
*                      |   |   MT1
*                      |   G
*                      MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 5
R5 15 0 500 TC1=0.001 
C1 8 0 9.782609E-09
C2 12 0 9.782609E-09
B1 9 0 V=u(v(1,3)-780)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-780)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-3.321312)))
B4 17 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-3.321312)))
B5 18 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-2.896634)))
B6 19 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-2.896634)))
.MODEL SMOD1 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=5.501861E-04 N=6.733192 CJO=1.34E-10 XTI=6.893982 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=5.501861E-04 N=6.733192 CJO=1.34E-10 XTI=6.893982 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:42:50 Prometheus V2.0.0
.ENDS
 
* 2N6075A ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 2 (Temp)
.SUBCKT MOT_2N6075A     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 5
R5 15 0 500 TC1=0.001 
C1 8 0 9.782609E-09
C2 12 0 9.782609E-09
B1 9 0 V=u(v(1,3)-780)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-780)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.113071)))
B4 17 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.113071)))
B5 18 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
B6 19 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
.MODEL SMOD1 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=5.501861E-04 N=6.733192 CJO=4.02E-10 XTI=6.893982 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=5.501861E-04 N=6.733192 CJO=4.02E-10 XTI=6.893982 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:42:50 Prometheus V2.0.0
.ENDS
 
* 2N6075B ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 2 (Temp)
.SUBCKT MOT_2N6075B     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 5
R5 15 0 500 TC1=0.001 
C1 8 0 9.782609E-09
C2 12 0 9.782609E-09
B1 9 0 V=u(v(1,3)-780)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-780)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.623897)))
B4 17 0 V=(EXP(-7.118938E-03*(((V(15,0)/500)-1)*1000)+(-5.623897)))
B5 18 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
B6 19 0 V=(EXP(-1.221721E-02*(((V(15,0)/500)-1)*1000)+(-3.589781)))
.MODEL SMOD1 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=8.085318E-02 ROFF=6E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=5.501861E-04 N=6.733192 CJO=6.7E-10 XTI=6.893982 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=5.501861E-04 N=6.733192 CJO=6.7E-10 XTI=6.893982 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:42:51 Prometheus V2.0.0
.ENDS

* BT134-600D ; Triac ; Silicon (Si) ; Philips ; SOT-82
* Level 2 (Temp)
.SUBCKT PHI_BT134_600D     1   2   3   
*                          |   |   |   
*                          |   |   MT1
*                          |   G
*                          MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 0.5
R5 15 0 500 TC1=0.001 
C1 8 0 6.918212E-09
C2 12 0 6.918212E-09
B1 9 0 V=u(v(1,3)-780)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-780)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-4.706235E-03*(((V(15,0)/500)-1)*1000)+(-5.104633)))
B4 17 0 V=(EXP(-4.706235E-03*(((V(15,0)/500)-1)*1000)+(-5.104633)))
B5 18 0 V=(EXP(0.016*(((V(15,0)/500)-1)*1000)+(0.007)))
B6 19 0 V=(EXP(0.016*(((V(15,0)/500)-1)*1000)+(0.007)))
.MODEL SMOD1 SW (RON=0.1401729 ROFF=1200000 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=0.1401729 ROFF=1200000 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=2.666268E-38 N=0.438059 CJO=1.34E-09 XTI=3.242784E-02 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=2.666268E-38 N=0.438059 CJO=1.34E-09 XTI=3.242784E-02 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  21.11.98 18:53:02 Prometheus V2.0.0
.ENDS
 
* BT134-600E ; Triac ; Silicon (Si) ; Philips ; SOT-82
* Level 2 (Temp)
.SUBCKT PHI_BT134_600E     1   2   3   
*                          |   |   |   
*                          |   |   MT1
*                          |   G
*                          MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 0.5
R5 15 0 500 TC1=0.001 
C1 8 0 6.918212E-09
C2 12 0 6.918212E-09
B1 9 0 V=u(v(1,3)-780)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-780)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-4.706235E-03*(((V(15,0)/500)-1)*1000)+(-4.411486)))
B4 17 0 V=(EXP(-4.706235E-03*(((V(15,0)/500)-1)*1000)+(-4.411486)))
B5 18 0 V=(EXP(0.024*(((V(15,0)/500)-1)*1000)+(0.0105)))
B6 19 0 V=(EXP(0.024*(((V(15,0)/500)-1)*1000)+(0.0105)))
.MODEL SMOD1 SW (RON=0.1401729 ROFF=1200000 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=0.1401729 ROFF=1200000 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=2.666268E-38 N=0.438059 CJO=2.01E-10 XTI=3.242784E-02 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=2.666268E-38 N=0.438059 CJO=2.01E-10 XTI=3.242784E-02 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  21.11.98 18:53:02 Prometheus V2.0.0
.ENDS
 
* BTA04-400A ; Triac ; Silicon (Si) ; SGS-Thomson ; TO-220AB
* Level 2 (Temp)
.SUBCKT SGS_BTA04_400A     1   2   3   
*                          |   |   |   
*                          |   |   MT1
*                          |   G
*                          MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 4
R5 15 0 500 TC1=0.001 
C1 8 0 1.304348E-08
C2 12 0 1.304348E-08
B1 9 0 V=u(v(1,3)-520)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-520)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.058306E-02*(((V(15,0)/500)-1)*1000)+(-4.217562)))
B4 17 0 V=(EXP(-1.074117E-02*(((V(15,0)/500)-1)*1000)+(-3.28388)))
B5 18 0 V=(EXP(0.04*(((V(15,0)/500)-1)*1000)+(0.0175)))
B6 19 0 V=(EXP(0.04*(((V(15,0)/500)-1)*1000)+(0.0175)))
.MODEL SMOD1 SW (RON=3.890489E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=3.890489E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=3.502019E-08 N=3.627619 CJO=1.675E-09 XTI=1.54864 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=3.502019E-08 N=3.627619 CJO=1.675E-09 XTI=1.54864 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  18.11.1998 10:45:08 Prometheus V2.0.0
.ENDS
 
* BTA04-400D ; Triac ; Silicon (Si) ; SGS-Thomson ; TO-220AB
* Level 2 (Temp)
.SUBCKT SGS_BTA04_400D     1   2   3   
*                          |   |   |   
*                          |   |   MT1
*                          |   G
*                          MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 4
R5 15 0 500 TC1=0.001 
C1 8 0 1.304348E-08
C2 12 0 1.304348E-08
B1 9 0 V=u(v(1,3)-520)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-520)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.058306E-02*(((V(15,0)/500)-1)*1000)+(-4.910709)))
B4 17 0 V=(EXP(-1.058306E-02*(((V(15,0)/500)-1)*1000)+(-4.217562)))
B5 18 0 V=(EXP(-5.511191E-03*(((V(15,0)/500)-1)*1000)+(-3.950149)))
B6 19 0 V=(EXP(-5.511191E-03*(((V(15,0)/500)-1)*1000)+(-3.950149)))
.MODEL SMOD1 SW (RON=3.890489E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=3.890489E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=3.502019E-08 N=3.627619 CJO=1.005E-09 XTI=1.54864 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=3.502019E-08 N=3.627619 CJO=1.005E-09 XTI=1.54864 EG=1.11 TNOM=25)

* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  18.11.1998 10:45:08 Prometheus V2.0.0
.ENDS

* T0505BH ; Triac ; Silicon (Si) ; TAG Semiconductors ; TO-220
* Level 2 (Temp)
.SUBCKT TAG_T0505BH     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 1.25
R5 15 0 500 TC1=0.001 
C1 8 0 7.462601E-09
C2 12 0 7.462601E-09
B1 9 0 V=u(v(1,3)-260)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-260)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.053955E-02*(((V(15,0)/500)-1)*1000)+(-5.184846)))
B4 17 0 V=(EXP(-0.0103989*(((V(15,0)/500)-1)*1000)+(-4.221598)))
B5 18 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
B6 19 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
.MODEL SMOD1 SW (RON=7.679725E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=7.679725E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)

* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/5
* (C) ISD  30.11.98 13:56:59 Prometheus V2.0.0
.ENDS
 
* T0505BM ; Triac ; Silicon (Si) ; TAG Semiconductors ; MICRO-MINI
* Level 2 (Temp)
.SUBCKT TAG_T0505BM     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 1.25
R5 15 0 500 TC1=0.001 
C1 8 0 7.462601E-09
C2 12 0 7.462601E-09
B1 9 0 V=u(v(1,3)-260)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-260)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.053955E-02*(((V(15,0)/500)-1)*1000)+(-5.184846)))
B4 17 0 V=(EXP(-0.0103989*(((V(15,0)/500)-1)*1000)+(-4.221598)))
B5 18 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
B6 19 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
.MODEL SMOD1 SW (RON=7.679725E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=7.679725E-02 ROFF=4E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)

* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/2
* (C) ISD  30.11.98 13:56:59 Prometheus V2.0.0
.ENDS
 
* T0505DH ; Triac ; Silicon (Si) ; TAG Semiconductors ; TO-220
* Level 2 (Temp)
.SUBCKT TAG_T0505DH     1   2   3   
*                       |   |   |   
*                       |   |   MT1
*                       |   G
*                       MT2
*
S1 1 4 8 0 SMOD1
S2 1 10 12 0 SMOD2
V1 4 6 DC 0
V2 10 11 DC 0
V3 7 3 DC 0
I1 0 15 1
D1 6 3 DMOD1
D2 3 11 DMOD2
R1 8 9 1000
R2 12 13 1000
R4 2 7 1.25
R5 15 0 500 TC1=0.001 
C1 8 0 7.462601E-09
C2 12 0 7.462601E-09
B1 9 0 V=u(v(1,3)-520)+u(ABS(I(V1))-V(18,0))+(u(ABS(I(V3))-v(16,0))*u(v(1)-v(2)))
B2 13 0 V=u(v(3,1)-520)+u(ABS(I(V2))-V(19,0))+(u(ABS(I(V3))-v(17,0))*u(v(2)-v(1)))
B3 16 0 V=(EXP(-1.053955E-02*(((V(15,0)/500)-1)*1000)+(-5.184846)))
B4 17 0 V=(EXP(-0.0103989*(((V(15,0)/500)-1)*1000)+(-4.221598)))
B5 18 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
B6 19 0 V=(EXP(-8.53954E-03*(((V(15,0)/500)-1)*1000)+(-5.074845)))
.MODEL SMOD1 SW (RON=7.679725E-02 ROFF=8E+07 VT=0.55 VH=0.30)
.MODEL SMOD2 SW (RON=7.679725E-02 ROFF=8E+07 VT=0.55 VH=0.30)
.MODEL DMOD1 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)
.MODEL DMOD2 D (IS=7.620907E-22 N=1.025663 CJO=3.35E-10 XTI=3.696504 EG=1.11 TNOM=25)

* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/2
* (C) ISD  30.11.98 13:56:59 Prometheus V2.0.0
.ENDS

